US06541423B1
4.2 1-Methylpyrazol-5-yl 2-Methylamino-4-methylbenzothiazole-5-carboxylate
3.1 g of 2-methylamino-4-methylbenzothiazole-5-carboxylic acid (0.014 mol) and 1.4 g of 1-methyl-5-hydroxypyrazole (0.015 mol) were dissolved in 110 ml of abs. acetonitrile and admixed with 2.67 g of EDC (0.014 mol), 1,2 ml of triethylamine and a catalytic amount of DMAP. After the reaction had ended, the solution was poured into water and the mixture was extracted with ethyl acetate. The organic phase was washed and dried, and the product was then purified by crystallization. Yield: 2.2 g (52%).

reactant | 2-methylamino-4-methylbenzothiazole-5-carboxylic acid | 0.014 mol, 3.1 g | CNC=1SC2=C(N1)C(=C(C=C2)C(=O)O)C | C10H10N2O2S
reactant | 1-methyl-5-hydroxypyrazole | 0.015 mol, 1.4 g | CN1N=CC=C1O | C4H6N2O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | EDC | 0.014 mol, 2.67 g
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | triethylamine | 1,2 ml | C(C)N(CC)CC | C6H15N
product | 1-Methylpyrazol-5-yl 2-Methylamino-4-methylbenzothiazole-5-carboxylate | CNC=1SC2=C(N1)C(=C(C=C2)C(=O)OC2=CC=NN2C)C | C14H14N4O2S
